US07629363B2
Step 1: Preparation of {1-[3-(aminocarbonyl)phenyl]-4-hydroxy-6-oxo-1,6-dihydropyridin-2-yl}methyl acetate
3-(2,2-dimethyl-4-oxo-4H-1,3-dioxin-6-yl)-2 oxopropyl acetate (4.00 g, 16.52 mmol) was dissolved in 1,4-dioxane (160 mL) and 3-aminobenzamide (1.73 g, 12.71 mmol) was added. The reaction was heated to reflux for 1 hour then cooled to 70° C. Methanesulfonic acid (1.22 g, 12.71 mmol) was added and the reaction brought back to reflux for 1 hour. The reaction was cooled to room temperature, concentrated and used as crude product for the next step.

reactant | 3-(2,2-dimethyl-4-oxo-4H-1,3-dioxin-6-yl)-2 oxopropyl acetate | 16.52 mmol, 4.00 g | C(C)(=O)OCC(CC1=CC(OC(O1)(C)C)=O)=O | C11H14O6
reactant | 3-aminobenzamide | 12.71 mmol, 1.73 g | NC=1C=C(C(=O)N)C=CC1 | C7H8N2O
reactant | Methanesulfonic acid | 12.71 mmol, 1.22 g | CS(=O)(=O)O | CH4O3S
solvent | 1,4-dioxane | 160 mL | O1CCOCC1 | C4H8O2
product | {1-[3-(aminocarbonyl)phenyl]-4-hydroxy-6-oxo-1,6-dihydropyridin-2-yl}methyl acetate | C(C)(=O)OCC=1N(C(C=C(C1)O)=O)C1=CC(=CC=C1)C(=O)N | C15H14N2O5
